US04647301
A mixture of 6-difluoromethoxyquinoline-2,3-dicarboxylic acid (0.14 mol) in 125 mL acetic anhydride is heated at 85° C. for one-half hour and then at 100° C. for one hour. The mixture is cooled, then filtered and the solids washed with ether to give 6-difluoromethoxyquinoline-2,3-dicarboxylic acid anhydride mp 157.5°-158.5° C.

reactant | 6-difluoromethoxyquinoline-2,3-dicarboxylic acid | 0.14 mol | FC(OC=1C=C2C=C(C(=NC2=CC1)C(=O)O)C(=O)O)F | C12H7F2NO5
solvent | acetic anhydride | 125 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 6-difluoromethoxyquinoline-2,3-dicarboxylic acid anhydride | FC(OC=1C=C2C=C3C(=NC2=CC1)C(=O)OC3=O)F | C12H5F2NO4
